US04305932
Ethoxyquin (240 g) and 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide (228 g) were stirred at 80° for 18 hours. Acetone (200 ml) was added to the hot reaction mixture and stirring continued for an additional 20 minutes. After cooling, the solid ethoxyquin hydrobromide was filtered off, washed thoroughly with acetone and the combined acetone filtrates were evaporated under reduced pressure. The resulted crude product was recrystallised (iso-propanol) to yield 226.5 g of 1-(2,3,4,6-tetra-O-acetyl-D-glucopyranosyl)-6-ethoxy-1,2-dihydro-2,2,4-trimethylquinoline. m.p.: 180°-181°.

reactant | Ethoxyquin | 240 g | CCOC1=CC=C2C(=C1)C(=CC(N2)(C)C)C | C14H19NO
reactant | 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide | 228 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
solvent | Acetone | 200 ml | CC(=O)C | C3H6O
product | 1-(2,3,4,6-tetra-O-acetyl-D-glucopyranosyl)-6-ethoxy-1,2-dihydro-2,2,4-trimethylquinoline | 226.5 g | C(C)(=O)O[C@H]1C(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N1C(C=C(C2=CC(=CC=C12)OCC)C)(C)C | C28H37NO10
